spice
* SPICE Netlist
VDD 5 0 DC 5
V1 4 0 DC 0
VC Vc 0 DC 0

R1 3 2 10k

M1 2 4 3 3 NMOS L=1u W=20u
M2 3 2 5 5 PMOS L=1u W=20u
M3 2 5 5 5 PMOS L=1u W=20u
M4 2 5 3 3 NMOS L=2u W=5u
M5 Vc 2 5 5 PMOS L=1u W=20u
M6 Vo 2 3 3 NMOS L=1u W=20u

.end