spice
* SPICE Netlist
Vi 10 0 DC 0V
RS 10 3 100k
C1 3 2 1uF
R1 2 0 1k
R2 2 3 4.7k
RE 4 6 100
C2 4 6 1uF
RL 7 8 1k
CL 8 0 10uF
V+ 2 0 DC 15V
V- 3 0 DC -15V
Q1 2 4 6 ModNPN
.model ModNPN NPN (BF=100)