spice
* SPICE Netlist for the provided schematic

Vi 3 12 DC 0

C1 3 6  C1_value
C2 10 2 C2_value

Rpar1 6 11 Rpar_value
RE1 8 1 RE1_value
RC1 2 4 RC1_value
Rpar2 4 5 Rpar_value

Gm 2 1 (8, 1) gm_value

.END