* RC Low Pass Filter

Vi 1 0 DC 0        ; Input Voltage Source
R1 1 4 1k          ; Resistor
C1 4 0 1u          ; Capacitor
Vout 4 3 DC 0      ; Output Node Connection

.END