plaintext
* SPICE Netlist for the given schematic

VPLUS 8 0 DC 10V
VMINUS 4 0 DC -10V
VBIAS 2 6 DC V_D

IBIAS 8 2 DC I_Bias

RA 2 6 RA
RB 2 6 RB
R1 3 2 R1
R2 3 5 R2
RL 5 0 RL

Q1 2 8 3 QMODEL
Q2 3 3 4 QMODEL
Q3 2 2 2 QMODEL
Q4 6 2 4 QMODEL

MN 5 3 5 MNMODEL
MP 5 3 5 MPMODEL

.model QMODEL NPN
.model MNMODEL NMOS
.model MPMODEL PMOS

.END