* Op-Amp Circuit
XOPAMP N2 N3 Vout OPAMP

R1 N2 N1 50k
R2 Vout N2 50k
R3 N3 V1 20k
R4 N3 V2 40k

V1 V1 0 DC
V2 V2 0 DC

Vout Vout 0

* Connections
N1 V1 V2