plaintext
* Op-Amp Circuit
R1 1 2 R1_value
R2 2 3 R2_value
C2 3 4 C2_value
V1 1 0 Vi  ; Vi is the input voltage source
X1 2 0 4 OpAmp ; Op-Amp with nodes (in-, in+, out)

* Op-Amp subcircuit
.subckt OpAmp in- in+ out
* Assume ideal op-amp characteristics here
.ends OpAmp

.end