* SPICE Netlist
* Components: BJTs, Resistor, Current Sources

* Transistors (Assuming NPN BJTs)
QR  6 2 4 NPN  ; QR: Collector=6, Base=2, Emitter=4
Q1  2 2 0 NPN  ; Q1: Collector=2, Base=2, Emitter=0 (Ground)
Q2  3 2 0 NPN  ; Q2: Collector=3, Base=2, Emitter=0 (Ground)
Q3  5 2 0 NPN  ; Q3: Collector=5, Base=2, Emitter=0 (Ground)

* Resistor
R1  V+ 2  R1_VALUE ; R1 connected from V+ to node 2

* Current Sources
IREF   V+ 6  IREF_VALUE  ; I_REF connected from V+ to node 6
I1     2 0  I1_VALUE     ; I1 connected from node 2 to ground
I2     3 4  I2_VALUE     ; I2 connected from node 3 to node 4
I3     5 4  I3_VALUE     ; I3 connected from node 5 to node 4
IO     3 2  IO_VALUE     ; IO connected from node 3 to node 2

* Voltage Source for V+
V+    V+ 0 DC  ; Defines the positive supply voltage

* Models for NPN transistors
.model NPN NPN