* SPICE Netlist for the given Circuit

Vx 3 7 DC 0
GmVgs4 2 3 (gm * V(5,2))
Ro4 2 3 ro4
Ro2 2 6 ro2

* Node assignments
* 5: Positive terminal of Vgs4
* 6: Ground for ro2
* 7: Negative terminal of Vx