spice
* SPICE Netlist for the given schematic

V1 7 0 DC V+                    ; Voltage Source

Q1 2 6 3 QMOD                   ; Transistor Q1
Q2 3 5 7 QMOD                   ; Transistor Q2
Q0 3 9 8 QMOD                   ; Transistor Q0

RE1 7 2 RE1_VALUE               ; Resistor RE1
RE2 7 5 RE2_VALUE               ; Resistor RE2
Ro2 9 8 Ro2_VALUE               ; Resistor Ro2
R1 3 4 R1_VALUE                 ; Resistor R1
RL 4 0 RL_VALUE                 ; Resistor RL

Cc 3 4 CC_VALUE                 ; Capacitor Cc

.model QMOD NPN (IS=1E-14 BF=100) ; NPN Transistor Model

.control
  run
  .endc

.end