spice
* SPICE Netlist

.MODEL NPN NPN (IS=1E-14 BF=100)
.MODEL PNP PNP (IS=1E-14 BF=100)

IREF 9 7 DC 1mA
Q1 3 7 2 NPN
Q2 7 2 4 PNP
Q3 6 7 8 NPN
RE 8 5 100

VCC 9 0 DC 12V
GND 5 0

* End of Netlist