* Components 
M1 2 5 3 3 NMOS W=1 L=1
M2 6 5 4 4 PMOS W=1 L=1
M3 2 2 4 4 PMOS W=1 L=1
M4 6 2 3 3 NMOS W=1 L=1

I1 2 1 1A
I2 4 1 1.25A
I3 3 1 0.8A
I4 4 1 4A

V1 5 6 DC 12V
V2 3 4 DC -12V

R1 2 4 1k

IREF 2 4 1A

.model NMOS NMOS
.model PMOS PMOS