* Voltage Sources
V1 4 0 DC 1.75
V2 7 0 DC -1.75

* Current Source
IREF 6 0 DC <value>

* MOSFETs
M1 5 4 6 6 PMOS
M2 5 5 4 4 PMOS
M3 4 5 4 4 PMOS
M4 2 2 7 7 NMOS
M5 8 3 7 7 NMOS

* Resistor
R 6 0 R

* Current Outputs
IO1 0 5 DC <value>
IO2 0 8 DC <value>