plaintext
* SPICE Netlist

Q1 8 2 2 2N3904
Q2 7 2 5 2N3904
Q3 2 3 3 2N3904
Q4 2 3 0 2N3904

R1 7 8 21.8k
R2 7 8 21.8k
R3 3 2 38.6k
RB1 2 5 0.5k
RB2 2 5 0.5k

V1 5 0 DC 4m
V2 5 0 DC 4m
V3 5 0 DC 2.5
V4 5 0 DC 2.5
V5 4 3 DC 10
V6 6 0 DC 10

.end