spice
* Transistors
Q1 2 5 0 NPN_A 
Q2 4 2 3 NPN_B 

* Resistors
R1 5 0 300k
R2 2 5 RoA
R3 4 3 Ro
R4 3 0 10k

* The net 2 is connected to Vcc or another power supply, assumed grounded in schematic input

.model NPN_A npn
.model NPN_B npn