plaintext
* Differential Pair Circuit

V+ 7 0 DC ?     ; Define V+ with appropriate voltage
V- 3 0 DC ?     ; Define V- with appropriate voltage

RC1 7 5 ?       ; Collector resistor for Q1
RC2 7 22 ?      ; Collector resistor for Q2
RE 6 3 ?        ; Emitter resistor shared by Q1 and Q2

IQ 6 3 DC ?     ; Current source IQ

Q1 5 v1 6 NPN   ; Q1 transistor
Q2 22 v2 6 NPN  ; Q2 transistor

* Model definition for NPN transistors
.model NPN NPN (IS=1E-14 BF=100)

.end