// List of Components
// Transistors: M1, M2, M3, M4
// Resistors: R1, R2 (both 1 kΩ)
// Current Source: I_Q (0.2 mA)
// Voltage Sources: V+, V-

* Two-stage differential amplifier

* Voltage Sources
V+ 6 0 DC 10
V- 7 0 DC -10

* Resistors
R1 6 5 1k
R2 6 2 1k

* Current Source
IQ 1 7 DC 0.2m

* MOSFETs
M1 3 1 4 4 NMOS
M2 3 2 4 4 NMOS
M3 5 3 5 5 PMOS
M4 2 3 5 5 PMOS

* Nodes
* 1: Common Source Nodes of M1 and M2
* 2: Drain Node of M2 and Gate Node of M4
* 3: Gate Node of M1 and M2, Common Drain Node of M3 and M4
* 4: Source Node for M1 and M2 (connected to I_Q)
* 5: Common Source Node of M3 and M4, connected to R1 and R2
* 6: Positive Voltage Source Node (V+)
* 7: Negative Voltage Source Node (V-)

.end